US07906517B2
{2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine (2.0 g), 4,6-dichloropyrimidine (1.19 g) and N-ethyldiisopropylamine (2.09 ml) are dissolved in toluene (10 ml) and the mixture is heated under reflux for 3 hours. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give (3,5-bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(6-chloropyrimidin-4-yl)-amine (1.8 g). MS (m/z): 613 [M+H]+

reactant | {2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine | 2.0 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C23H25F9N2
reactant | 4,6-dichloropyrimidine | 1.19 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-ethyldiisopropylamine | 2.09 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-(6-chloropyrimidin-4-yl)-amine | 1.8 g | FC(C=1C=C(CN(C2=NC=NC(=C2)Cl)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C27H26ClF9N4
